US04851419
(a) 2-(2-Bromophenyl)pyridine
2-Bromobenzenamine (18.77 g) in 50 ml of conc HCl and 50 ml of water, was cooled in an ice bath and treated dropwise with stirring with a solution of sodium nitrite (8.28 g) in water (35 ml). After the addition was complete, the mixture was stirred in the ice bath for a further 30 minutes and then added portionwise (over 5 minutes) to pyridine (275 ml) stirred in an oil bath at 80° C. The mixture was heated (at 80° C.) for a further 1 hour, when the excess of pyridine was distilled off under reduced pressure. The residue was basified (aqueous sodium hydrogen carbonate) and extracted with ethyl acetate (3×). The extracts were washed with water (2×), dried (sodium sulphate) and evaporated to give a dark oil, which was flash chromatographed on silica using methylene chloride/ethyl acetate (20/1) as eluant. Pure sub-title compound (6.56 g) was obtained as a dark brown oil. m/z 235/233 (MW), 154 (Base Peak).

reactant | 2-Bromobenzenamine | 18.77 g | BrC1=C(C=CC=C1)N | C6H6BrN
reactant | sodium nitrite | 8.28 g | N(=O)[O-].[Na+]
reactant | pyridine | 275 ml | N1=CC=CC=C1 | C5H5N
solvent | HCl | 50 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | water | 35 ml | O | H2O
product | 2-(2-Bromophenyl)pyridine | BrC1=C(C=CC=C1)C1=NC=CC=C1 | C11H8BrN
